US05447957
a) Methyl 2-(2-nitro-4-trifluoromethylphenoxy)benzoate
A mixture of methyl salicylate (15.2 g, 0.1 mol), 4-chloro-3-nitrobenzotrifluoride (22.6 g, 0.1 mol), and potassium carbonate (8.3 g, 0.06 mol) in dimethylformamide (100 mL) was stirred under argon and heated in an oil bath to 150° C. for 70 min. The reaction mixture was diluted with ethyl acetate (300 mL), filtered, and the residue washed with ethyl acetate. The combined filtrates were evaporated, and the crude product was purified by flash chromatography (silica gel, ethyl acetate/hexane) to give the title compound as a pale yellow solid; mp 69°-70° C.

reactant | methyl salicylate | 0.1 mol, 15.2 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 4-chloro-3-nitrobenzotrifluoride | 0.1 mol, 22.6 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | 0.06 mol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(2-nitro-4-trifluoromethylphenoxy)benzoate | [N+](=O)([O-])C1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC(=C1)C(F)(F)F | C15H10F3NO5
